US06888032B2
4-Benzoylbenzonitrile
An oven dried screw cap test tube was charged with NaCN (91 mg, 1.857 mmol), dried KI (51 mg, 0.307 mmol, 20 mol %), CuI (30 mg, 0.157 mmol, 10 mol %), (4-bromophenyl)-phenyl-methanone (404 mg, 1.548 mmol), evacuated and backfilled with argon three times. N,N′-dimethylethylenediamine (165 μL, 1.550 mmol) and anhydrous toluene (1 mL) were added under argon. The tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 24 h. The resulting suspension was cooled to room temperature, 2 mL of ethyl acetate, 1 mL of ammonium hydroxide (30%) and 1 mL of water were added. The mixture was stirred at 25° C. for 10 min then the organic layer was washed with 1 mL of water and dried over MgSO4. The GC analysis showed complete conversion of starting material with formation of title product (confirmed by GC-MS).

reactant | NaCN | 1.857 mmol, 91 mg | [C-]#N.[Na+]
reactant | (4-bromophenyl)-phenyl-methanone | 1.548 mmol, 404 mg | BrC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C13H9BrO
reactant | N,N′-dimethylethylenediamine | 1.550 mmol, 165 μL | CNCCNC | C4H12N2
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
catalyst | CuI | 0.157 mmol, 30 mg | [Cu]I
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Benzoylbenzonitrile | C(C1=CC=CC=C1)(=O)C1=CC=C(C#N)C=C1 | C14H9NO
